US07517995B2
benzyl[2-(5-isopropyl-oxazol-2-yl)-ethyl]-carbamate
100.00 g (215 mmol) PS-triphenylphosphine are suspended in 1000 ml dichloromethane, 59.92 g (236.06 mmol) iodine are added. The mixture is stirred for 0.1 hours at ambient temperature, then 65.32 ml (470.24 mmol) triethylamine are added dropwise. 28.80 g (94.91 mmol) benzyl [2-(3-methyl-2-oxo-butylcarbamoyl)-ethyl]-carbamate dissolved in 200 ml dichloromethane are added. The reaction mixture is stirred for 16 hours at ambient temperature. As the reaction is incomplete, a further 0.1 eq triphenylphosphine and 0.1 eq iodine are added. The mixture is stirred for 16 hours at ambient temperature, then the precipitate is filtered off. The filtrate is evaporated down, the residue is extracted with water and chloroform, the organic phase is dried and evaporated to dryness. The residue is purified by chromatography.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 236.06 mmol, 59.92 g | II | I2
reactant | triethylamine | 470.24 mmol, 65.32 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl [2-(3-methyl-2-oxo-butylcarbamoyl)-ethyl]-carbamate | 94.91 mmol, 28.80 g | CC(C(CNC(=O)CCNC(OCC1=CC=CC=C1)=O)=O)C | C16H22N2O4
reactant | triphenylphosphine | 0.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.1 eq | II | I2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | benzyl[2-(5-isopropyl-oxazol-2-yl)-ethyl]-carbamate | C(C1=CC=CC=C1)OC(NCCC=1OC(=CN1)C(C)C)=O | C16H20N2O3
